US05840898
A 4-necked 5-L round-bottom flask is equipped with an overhead mechanical stirrer, a water-cooled condenser and nitrogen flow is maintained. The flask is charged with [7-chloro-9-(4-methyl-piperazin-1-yl-methyl)-2,3-dihydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester (194 g, 495 mol), prepared as in example 13d, as a solution in 1 L of methylene chloride. To the solution is added 1M diisobutylaluminum hydride in methylene chloride (2.00 L, 2.00 mol) over 15 min. The solution is heated to reflux during the addition. The reaction is allowed to cool to ambient temperature and stirred for 4 h. The reaction mixture is transferred to a 15-L separatory funnel containing a saturated solution of Rochelle's salt (5 L). After being stirred for 2.5 h, the organic layer is separated and the aqueous layer is extracted with methylene chloride (3×2.5 L). The combined organic layers are washed with brine (3 L), dried over anhydrous sodium sulfate and concentrated in vacuo. The resultant thick brown slurry is successively treated with methylene chloride (500 mL) and hexane (1 L). The mixture is swirled at 0° C. for 30 min. The precipitate is collected on a Buchner funnel, washed with 1 liter of hexane and dried in vacuo. at 30° C. yielding [7-chloro-9-(4-methyl-piperazin-1-ylmethyl)-2,3-dihydro-[1,4]dioxino[2,3-g]quinolin-8-yl]-methanol as a yellow crystalline solid: mp 178°-180° C. 1H NMR (CDCl3, 200 MHz) δ2.26 (s, 3H), 2.63 (br. s, 4H), 4.00 (s, 2H). 4.39(s, 4H), 4.93 (s, 2H), 6.10 (br. s, 1H), 7.46 (s, 1H), 7.51 (s, 1H). Elemental analysis: Calculated for C18H22ClN3O3 : C 59.42, H 6.09, N 11.55. Found: C 59.41, H 6.12, N 11.46.

reactant | water | O | H2O
reactant | 7-chloro-9-(4-methyl-piperazin-1-yl-methyl)-2,3-dihydro[1,4]dioxino[2,3-g]quinoline-8-carboxylic acid methyl ester | 495 mol, 194 g | COC(=O)C=1C(=NC=2C=C3C(=CC2C1CN1CCN(CC1)C)OCCO3)Cl | C19H22ClN3O4
reactant | diisobutylaluminum hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Rochelle's salt | 5 L | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.00 mol, 2.00 L | C(Cl)Cl | CH2Cl2
product | [7-chloro-9-(4-methyl-piperazin-1-ylmethyl)-2,3-dihydro-[1,4]dioxino[2,3-g]quinolin-8-yl]-methanol | ClC1=NC=2C=C3C(=CC2C(=C1CO)CN1CCN(CC1)C)OCCO3 | C18H22ClN3O3
